2129-07-21 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient pulled out IV this afternoon.  PICC ordered.  Low UOP since
   lasix gtt stopped.  Gave lasix 20mg IV x 1 given that patient is lasix
   naive.  Monitor UOP and give 20mg more if patient requires it.
   Allergies:
   [**Doctor First Name 877**] (Oral) (Fexofenadine Hcl)
   Unknown; Abdomi
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-7-20**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-21**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 71 (63 - 91) bpm
   BP: 131/59(78) {98/59(71) - 156/104(113)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 76.2 kg
             Total In:
                                                                    342 mL
                                                                     41 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    182 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    280 mL
   Urine:
                                                                  1,888 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,546 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Vitals - Temp 99.6 Rectally BP 146/53 HR 71 RR 23 Sat 99% 3L NC
   GENERAL: lethargic appearing African American female, arousable to
   sternal rub and drowsy during examination
   HEENT: Normocephalic, atraumatic. No scleral icterus. pupils
   constricted bilaterally. MMM. OP clear. Neck Supple, No LAD
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or gallops. No pericardial knock.  Appropriate decrease in JVP with
   respirations. No pulsus parodoxus. No hepatojugular reflex
   appreciated.
   LUNGS: Dependent crackles currently laying on the left side.  Decreased
   breath sounds at the bases.
   ABDOMEN: Normal active BS. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ LE edema R>L Dopplerable DP/PT bilaterally.
   SKIN: No rashes/lesions, ecchymoses. Scar on right shin well healed.
   NEURO: AOx 1 (person) she is under the impression that she's currently
   at "[**Location (un) 1519**]." Moving all 4 extremities. Unable to perform rest of
   neurologic evaluation given pt would not comply. Grossly face is
   symmetric.
   Labs / Radiology
   159 K/uL
   14.1 g/dL
   83 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   142 mEq/L
   41.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2129-7-19**]  07:00 PM
                             [**2129-7-20**]  01:25 AM
                             [**2129-7-20**]  08:12 AM
                             [**2129-7-20**]  05:46 PM
                             [**2129-7-21**]  02:10 AM
   WBC
   4.1
   4.1
   Hct
   40.5
   41.9
   Plt
   153
   159
   Cr
   1.3
   1.4
   1.4
   TropT
   0.44
   0.46
   Glucose
   [**Telephone/Fax (2) 8518**]
   83
   Other labs: PT / PTT / INR:16.5/90.0/1.5, CK / CKMB /
   Troponin-T:97/5/0.46, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is an 84 yo F h/o dementia, htn, tia presenting with 10 lb weight
   gain and new lower extremity edema transferred to the CCU for
   hypotension, hypoxia, and altered mental status.
   .
   # Acute right-sided heart failure: Patient significantly volume
   overloaded on exam and as evidenced by CXR.  Echo today demonstrated
   preserved EF but new severe RV dilatation consistent with RV
   pressure/volume overload.   The etiology of this RV dilatation is
   unclear. [**Name2 (NI) **] pts immobility and age PE is high on the differential.
   Unable to obtain a CTA due to renal function but echo findings could be
   consistent with PE.  She is hypoxic, but not tachycardic, which argues
   against PE. Although EKG on this admission has Q-wave changes there are
   no ST abnormalities and while elevated troponins certainly are
   concerning for ACS this elevation is most like related to her heart
   failure exacerbation.  Q waves may represent recent ischemic event
   causing R heart failure. Finally, she may have another cause of
   pulmonary HTN either subacute or chronic such as intrinsic pulmonary
   disease.  Pt received 80mg IV lasix and diuresed nearly 1L in an 1 hr.
   - Gentle diuresis with lasix ggt with a goal of approximately 1L given
   patient is significantly preload dependent.
   - Empiric treatment for PE with heparin given clinical picture and echo
   findings.  Positive D-dimer not helpful in this setting.
   - Lower extremity U/S revelead no DVT in either leg
   - CTA in the near future given unclear etiology of heart failure
   exacerbation and once renal function has improved.
   - repeat ECG in AM
   - cont to trend CEs
   - Daily weights
   - Repeat CXR in the AM
   -Patient needs better access will get a PICC line today if pt allows it
   # Confusion/Lethargy: Patient with waxing and [**Doctor Last Name 226**] level of
   consciousness as well as intermittent disorientation.  Differential
   includes worsening of baseline dementia (less likely give
   waxing/[**Doctor Last Name 226**]) vs acute delirium.  Possible causes of delirium in this
   elderly woman include infection, toxic/metabolic, medications.
   Possible medication culprits include remeron (recently satrted).
   Regarding toxic/metabolic, glucose has been widely fluctuating but
   currently WNL, electrolytes WNL, TSH WNL, BUN elevated but not frankly
   uremic level, patient not currently hypoxic.  Basic infectious w/u
   including blood/urine cx, CXR, without evidence of source.
   - continue to monitor mental status
   - f/u blood and urine cx
   - hold Remeron
   - avoid psycotropic medications as much as possible
   - evaluate and treat underlying medical issues
   .
   # Acute renal failure: Baseline creatinine 0.9 now 1.4.  Likely
   secondary to poor forward flow in the setting of CHF.
   - diuresis as per above
   - trend BUN/Cr
   - avoid nephrotoxic agents
   - renally dose all meds
   - replete K+ given patient on lasix
   .
   # Hypoxia: Patient was initially hypoxic on the floor despite 4L NC,
   but improved significantly with diuresis. Likely contributing is her
   pulmonary edema (given CXR findings) which may be [**12-27**] RV dilatation
   causing LV impingement with functional constrictive physiology and
   impaired L-sided filling.  Other possible contributing factors include
   PE.  Also on the differential would be patent PFO with reversal to
   R-->L shunting in the setting of high pulmonary pressure (although
   prior echo - ? if bubble study - commented on lack of PFO).
   - continue to monitor O2 sats and wean O2 as tolerated to keep sats>94%
   - continue to diurese as tolerated
   - continue empiric treatment of PE and consider further eval as above
   .
   # Hypothyroidism:
   - continue outpt regimen of synthroid
   .
   # Anorexia:  Daughter and HCP report declining ability to take PO.
   Possibly [**12-27**] worsening dementia vs subacute medical illness.  Remeron
   recently started for this, unclear if this had been helpful.
   - holding remeron given ? AMS possibly related
   - encouraged supervised eating
   - nutrition consult once mental status closer to baseline
   .
   # FEN: replete lytes prn
   # Diet: Puree diet, nectar thickened liquids (will re-assess in AM)
   # PPX: therapeutic anticoagulation, bowel regimen
   # ACCESS: PIV
   # CONTACT: Daughter [**First Name8 (NamePattern2) 777**] [**Known lastname 8481**] (not HCP) [**Telephone/Fax (1) 8482**]  Guardian is
   [**Name (NI) **] [**Name (NI) 8483**] [**Telephone/Fax (1) 8484**]
   # CODE: Full code confirmed with HCP
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: